US05663200
50b) 2-Methoxybenzyl iodide
2 g of 2-methoxybenzyl chloride in 22 ml of abs. acetone are treated with 9.3 g of sodium iodide and the reaction mixture is stirred at RT overnight. It is then diluted with 250 ml of ether and the whole is washed with 10% sodium thiosulfate solution and saline. After drying over sodium sulfate, and removing the solvent, the title compound, which is subjected, without purification, to further processing, is obtained. TLC Rf (hexane:ethyl acetate=4:1)=0.46. 1H-NMR (200 MHz, CDCl3): 7.36-7.2 (m, 2H); 6.92-6.8 (m, 2H); 4.48 (s, 2H); 3.91 (s, 3H).

reactant | 2-methoxybenzyl chloride | 2 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium iodide | 9.3 g | [I-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxybenzyl iodide | COC1=C(CI)C=CC=C1 | C8H9IO
